US05773463
(±) trans 1-(2-Benzylanilino)-2-ethoxycarbonylamino-1,2,3,4-tetrahydronaphthalene
A solution of (±) cis-2-ethoxy-3a,4,5,9b-tetrahydronapth[2,1-d]oxazole (1.90 g, 8.76 mmol) in dry toluene (15 ml) was treated with 2-benzylaniline (1.60 g, 8.76 mmol) and a catalytic amount of p-toluenesulfonic acid (0.5 ml of an anhydrous 0.1M solution of p-toluenesulfonic acid in benzene). The mixture was heated at 50° C. for 1.5 h. The reaction was worked up as described in Preparation 5. Trituration with n-pentane afforded the title compound as a pale yellow solid (2.47 g).

reactant | (±) cis-2-ethoxy-3a,4,5,9b-tetrahydronapth[2,1-d]oxazole | 8.76 mmol, 1.90 g | C(C)OC=1O[C@@H]2[C@H](N1)CCC1=CC=CC=C12 | C13H15NO2
reactant | 2-benzylaniline | 8.76 mmol, 1.60 g | C(C1=CC=CC=C1)C1=C(N)C=CC=C1 | C13H13N
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | n-pentane | CCCCC | C5H12
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (±) trans 1-(2-Benzylanilino)-2-ethoxycarbonylamino-1,2,3,4-tetrahydronaphthalene | 2.47 g | C(C1=CC=CC=C1)C1=C(N[C@H]2[C@@H](CCC3=CC=CC=C23)NC(=O)OCC)C=CC=C1 | C26H28N2O2
